US05076828
A four-necked flask fitted with stirrer and condenser means was charged with 39 g of oleylmethyldihydroxyethylammonium chloride, 23 g of potassium sulfanilate and 200 g of isopropyl alcohol and the reaction was conducted at 40°-50° C. in an atmosphere of nitrogen gas introduced at a low flow rate for 6 hours. The precipitate was then collected by filtration and washed with 30 ml of isobutyl alcohol. The filtrate and the washings were combined and concentrated under reduced pressure. The residue was dissolved in 200 g of toluene and filtered. The filtrate was then concentrated to give 49.8 g (theoretical yield 54.9 g) of oleylmethyldihydroxyethylammonium sulfanilate as a waxy product. The elemental analysis is shown below.

reactant | oleylmethyldihydroxyethylammonium chloride | 39 g | [Cl-].C(CCCCCCC\C=C/CCCCCCCC)C[NH2+]CC(O)O
reactant | potassium sulfanilate | 23 g | S(=O)(C1=CC=C(C=C1)N)(=O)[O-].[K+]
solvent | isopropyl alcohol | 200 g | C(C)(C)O | C3H8O
product | oleylmethyldihydroxyethylammonium sulfanilate | 49.8 g | S(=O)(C1=CC=C(C=C1)N)(=O)[O-].C(CCCCCCC\C=C/CCCCCCCC)C[NH2+]CC(O)O | InChI=1S/C21H43NO2.C6H7NO3S/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-22-20-21(23)24;7-5-1-3-6(4-2-5)11(8,9)10/h9-10,21-24H,2-8,11-20H2,1H3;1-4H,7H2,(H,8,9,10)/b10-9-;
